Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I want to be deported."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___, over the past few days, has been feeling very 
hopeless about the oncoming winter.  He is homeless and sleeps 
on the streets, exposed to the elements.  He stated that he has 
been feeling "miserable," and he is "tired of this country."
.
On interview in the ED, the patient had reported that today this 
feeling became more severe, such that the patient decided that 
it would be better for him to die than to experience another 
winter in ___.  In line with that thinking, this evening the 
patient reported that he threw himself in front of a T at the 
___, with the intention of killing himself, or 
getting himself deported.  The patient reported that the train 
stopped before hitting him, and EMS was called long with the 
police.  The patient was subsequently brought to the ___ 
___ emergency department for a safety evaluation.
.
The patient stated if he is not deported he would rather die. 
When asked why he wants to be deported, the patient responded, 
"So I do not have to take the coldness. If you don't deport me 
I'll kill myself."  The patient denied having suicidal ideation 
in the past.  The patient denied ever attempting to end his life 
previously.  The patient denied other previous impulsive 
actions.
.
The patient endorsed hopelessness, decreased sleep in the 
setting of having to sleep outside, fatigue however he denied 
any changes in interest, motivation, guilt, appetite 
concentration, or memory.
.
When asked what the psychiatric service can do for him, the 
patient continued to state that "you can deport me back to the 
___."  He was not agreeable to any other plan. 
The patient continued to endorse conditional suicidality if he 
is not deported back to the ___.  The patient 
only wants to be here on Deac 4, with the hope that we will help 
him leave the country and return to the ___.
.
On admission to Deac 4, the patient continued to endorse all of 
the above. Additionally, the patient stated that he had been to 
the "deportation office" [Enforcement and Removal Operations 
Field ___ field office] 7 times seeking to be 
deported to the ___. He claimed that ___ field 
office refused to facilitate his deportation because he is a 
lawful permanent resident. When asked if he had any family 
members in the area or ___ ___ assist him to return to the 
___, he stated, "I can't get in touch with them. And I don't have 
any money. The only way I can get there is to get deported. He 
expressed frustration with ongoing homelessness in this country, 
stating, "I have to sleep on the streets, I eat trash, people 
treat you so bad, and now it is getting cold again."  Patient 
claimed that he had been homeless for ___ years. However, prior to 
current homelessness, patient reported that he rented a room 
paid for by doing "odd jobs" under the table. 
.
The patient denied violent or homicidal ideation. He expressed 
feeling safe on the unit, and he expressed willingness to notify 
staff should he have an urge to harm himself or others while on 
the unit. 
.
On psychiatric review of symptoms, patient denied symptoms of 
anxiety such as worry, rumination, intrusive thoughts, 
avoidance, phobias, panic. He denied symptoms of mania such as 
distractibility, erratic/risky behavior, grandiosity, flight of 
ideas, increased activity, decreased need for sleep, or 
talkativeness/pressured speech. He denied symptoms of psychosis 
such as auditory or visual hallucinations, or delusions of 
reference, paranoia, thought insertion/broadcasting/withdrawal.
.
Ten point review of somatic systems also negative for any 
changes or concerns.
.
 
Past Medical History:
Patient denied previous psychiatric hospitalizations, medication 
trials, or referral to treatment. Denied previous suicide 
attempts or self-injurious behavior. Denied history of trauma. 
Denied access to firearms or weapons. Denied current or previous 
medical diagnoses or treatment. 
 
Social History:
SOCIAL HISTORY
B/R in the ___ until age ___ when he came to US 
with mother and sister. Lived in ___ area through 
high school. Completed ___ grade. Single, never married. Has 
one ___ year old son, ___, who is in his mother's custody; 
patient is not in contact with child. Patient is currently 
homeless; no stable source of income. 

SUBSTANCE ABUSE HISTORY
Patient reported regular daily marijuana use ("$5 bag"); denied 
other illicits, tobacco, or alcohol use. 

FORENSIC HISTORY
Patient initially denied previous forensic history; however, 
later learned that patient has been arrested multiple times 
(information available via public record)
- ___ Arrest:  ___, ___, ___, on 
___ for operating a vehicle with a suspended 
license. (12:01pm)
- ___ Arrest: ___, ___, of ___., ___ 
trespassing, breaking and entering to commit a felony, two 
counts of resisting arrest, ___., 11:22 p.m.
- ___ Arrest: ___ 10:45:00 AM INDECENT EXPOSURE / 
LEWD AND LASCIVIOUS
.
 
Family History:
FAMILY HISTORY
Denied any family history of mental illness, including 
psychiatric hospitalizations or completed suicides.
 
Physical Exam:
PHYSICAL EXAM AT ADMISSION:
.
PHYSICAL EXAMINATION:
VS: T:98.1 , BP: 123/81, HR: 60, R: , O2 sat: 98% on RA
.
General: ___ year old male in NAD. Well-nourished, 
well-developed. Appears older than stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses 
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No rashes, abrasions, scars, or lesions.
.
Neurological:
Cranial Nerves:
-Pupils symmetry and responsiveness to light and accommodation: 
PERRLA
-Visual fields: full to confrontation
-EOM: full
-Facial sensation to light touch in all 3 divisions: equal
-Vacial symmetry on eye closure and smile: symmetric
-Hearing bilaterally to rubbing fingers: normal
-Phonation: normal
-Shoulder shrug: intact
-Tongue: midline
.
Motor: Normal bulk and tone bilaterally. No abnormal movements, 
no tremor. Strength: full power ___ throughout. 
.
Coordination: Normal on finger to nose test. DTRs: 2+ and 
symmetrical throughout. Sensation: Intact to light touch 
throughout. 
.
Gait: Steady. Normal stance and posture. No truncal ataxia.
Romberg: Negative.
.
Cognition: 
Wakefulness/alertness: awake and alert
Attention: intact to interview
Orientation: oriented to person, time, place, situation
Executive function (go-no go, Luria, trails, FAS): not tested
Memory: intact to recent and past history
Fund of knowledge: consistent with education
Speech: normal rate, volume, and tone
Language: non-native/ESL ___ speaker, no paraphasic errors, 
appropriate to conversation
.
Mental Status:
Appearance: No apparent distress, appears older than stated age, 
poorly groomed, malodorous, dressed in hospital gown 
Behavior: Calm, cooperative, engaged, friendly, pleasant, 
appropriate eye contact, no psychomotor agitation or retardation
Mood and Affect: "annoyed" / blunted, restricted, appropriate to 
situation, congruent with mood
Thought Process: Very little spontaneous language, but when 
present, it is linear, coherent, goal-oriented. No LOA.
Thought Content: denies SI/HI/AH/VH, no evidence of delusions or 
paranoia
Judgment and Insight: impaired/impaired 
.
=============
.
PHYSICAL EXAM AT DISCHARGE:
.
VS: 97.9, 119/67, 76, RR 16, O2 sat 98% RA on ___
.
Mental Status:
-Appearance: man appearing stated age, fair grooming, in no 
apparent distress. 
-Behavior: Calm and participates in interview, but minimally 
with short answers. No psychomotor agitation or retardation
-Mood: "Good"
-Affect: Euthymic. Mood-congruent, restricted range
-Speech: Normal rate, and tone
-Thought process: Linear, coherent, goal-oriented, no loose 
associations
-Thought Content:
---Safety: Denies current suicidal ideation or violent ideation.
---Delusions: Denies current persecutory or delusional beliefs
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH; no evidence of internal 
preoccupation
-Insight: Fair given that he is a poor historian 
-Judgment: Fair
.
Cognition: 
Oriented to person, place, date, situation. Attentive to 
interview. Fund of knowledge in tact. Language is fluent without 
aphasia.

 
Pertinent Results:
LABS AT ADMISSION:
.
CBC:
___: WBC: 4.4
___: RBC: 5.09
___: HGB: 14.2
___: HCT: 42.7
___: Plt Count: 248
.
BMP:
___: Na: 140 (New reference range as of ___: K: 4.2
___: Cl: 101
___: CO2: 26
___: BUN: 19
___: Creat: 1.0
___: Glucose: 93 (If fasting, 70-100 normal, >125
provisional diabetes)
.
STox:
___: ASA, EtOH, Acetmnphn, Benzo, Barb, Tricyc: Neg
.
UTox:
___: Benzodiazepine: NEG (Benzodiazepine immunoassay screen
does not detect some drugs,; including Lorazepam, Clonazepam, 
and
Flunitrazepam)
___: Barbiturate: NEG
___: Opiate: NEG (Opiate assay does not reliably detect
synthetic opioids; such as Methadone, Oxycodone, Fentanyl,
Buprenorphine, Tramadol,; Naloxone, Meperidine. See online Lab
Manual for details)
___: Cocaine: NEG
___: Amphetamine: NEG
___: Methadone: NEG (Methadone assay detects Methadone (not
other Opiates/Opioids); Quetiapine (Seroquel) may cause a false
positive result)
.
UA:
___: Urine pH (Hem): 8.0
___: Urine Glucose (Hem): NEG
___: Urine Protein (Hem): TR*
___: Urine Bilirubin (Hem): NEG
___: Urobilinogen: 2*
___: Urine Ketone (Hem): NEG
___: Urine Blood (Hem): NEG
___: Urine Nitrite (Hem): NEG
___: Urine Leuks (Hem): NEG
.
.
ADDITIONAL LABS DURING HOSPITALIZATION:
___ ___: 2.1
.
Chem ___: Glu 96, BUN 13, Cr 0.9, Na 141, K 4.3, Cl 103, 
Bicarb 25, AG 13
.
LFTs ___: ALT 12, AST 15, AP 73, TBili 0.6
.
.
Note that the patient refused medications on the unit, including 
the use of an antipsychotic. 
.
.
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, Mr. ___ signed a conditional voluntary 
agreement (Section 10 & 11) which was accepted and maintained 
throughout. He was placed on 15 minute check status at 
admission. He remained in behavioral control throughout 
hospitalization, and he did not require chemical or physical 
restraint. remained on that level of observation throughout 
while being unit restricted.
.
2. PSYCHIATRIC:
.
Upon admission, patient continued to endorse conditional 
suicidality if he was not deported to the ___. 
However, he denied current or recent depressive/neurovegetative 
symptoms. Rather, patient stated, "I'm not depressed. I just 
don't want to spend another winter in the cold." Patient 
reported that he had been banned from several shelters, thus 
forced to sleep outside. Patient would not provide details 
regarding why he was banned from several shelters other than 
"Those people don't like me. They threw me out for smoking." 
Regarding additional psychiatric symptoms, patient denied 
current or lifetime symptoms consistent with psychotic or major 
mood disorders; he denied current or lifetime perceptual 
disturbances. Should be noted that on initial inpatient 
interview, patient gave vague and evasive responses to questions 
posed, often hesitating to answer or requiring repetition of the 
question. He exhibited odd affect and smiled inappropriately at 
times. With these observations, there was initial concern that 
patient may have underlying psychotic disorder and was 
internally preoccupied. Thus, he was offered trial of olanzapine 
5mg BID, which he refused.
.
However, as hospitalization progressed, patient did not exhibit 
any signs or symptoms consistent with active psychotic disorder 
or other major mental illness. Although the patient remained 
isolative in his room and did not participate in any milieu 
activities or group therapy, staff did not observe any bizarre 
behavior consistent with decompensated psychotic or affective 
illness. He consistently tended to his ADLs and made his needs 
known. He was minimally engaged with his treatment team, but he 
accepted recommendation to contact ___ (___ 
General of ___ ___) regarding 
deportation request. 
.
Given that patient was not forthcoming about his social, 
forensic, and possible psychiatric history, team contacted all 
the emergency psychiatric service providers in the state of 
___ (documentation available in ___), in addition to 
emergency psychiatric service providers in the greater 
___ area, as patient disclosed that he resided in 
___ for several years before returning to ___ sometime 
recently. None of the agencies contacted had ever evaluated the 
patient except for the incident on ___ resulting in his 
current hospitalization. At the time of discharge, there was no 
collateral information documenting that patient had ever 
required emergency evaluation or treatment for a psychiatric 
illness. 
.
Patient was offered and declined referrals to primary care, 
substance abuse, or outpatient mental health treatment. However, 
he was provided with a list of several walk-in clinics if he 
requires care in the future. Additionally, ___ confirmed that 
patient was not banned from ___ (which he 
previously claimed).
.
On day of discharge, patient exhibited mood congruent euthymic 
affect, linear thought process, and future-oriented thought 
content with stated plan to visit ___ in ___. 
Patient provided with address and contact information for 
___ (___, ___. He denied 
current depressed mood or neurovegetative symptoms; however, he 
continued to express conditional and instrumental suicidality if 
he were not deported. Patient was able to engage in a meaningful 
conversation about alternatives to self-harm to achieve his 
goal, and he expressed willingness to contact emergency service 
providers (e.g. B.E.S.T.) if he experienced urges to self-harm. 
.

3. SUBSTANCE USE DISORDERS:
# Cannabis Use Disorder
.
At admission, he denied use of alcohol, tobacco, or other 
substances. Mr. ___ was counseled regarding the negative 
effects of cannabis upon mental/physical health and abstinence 
from cannabis was encouraged.
.
4. MEDICAL
Mr. ___ was medically cleared in the ED; no acute medical 
issues prevented admission to Deac 4. Additionally, he had no 
chronic medical issues requiring attention. During this 
hospitalization, he denied any acute medical conditions or 
symptoms.
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Mr. ___ was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
occupational therapy and social work groups that focus on 
teaching patients various coping skills. However, he was 
isolative, remained in his room. He frequently spent his days 
lying awake in bed.
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
The patient stated that he has no current contacts, no current 
outpatient providers or PCP, and no existing support network or 
local family.
.
Patient stated that he speaks with his father and grandmother 
(located in ___) via phone. However, he refused 
permission for the team to contact any family members.
.
6. RISK ASSESSMENT
On admission, patient was assessed to be at increased risk of 
harm due to both dynamic (including current homelessness, 
unemployment, legal troubles, lack of social support, and most 
notably, recent suicide attempt) and static risk factors (male 
gender, history of immigration). However, patient denied current 
symptoms of mental illness, including symptoms of depression or 
psychosis. Furthermore, no additional information obtained 
revealed a prior history of psychiatric illness. During the 
current hospitalization, information obtained, in addition to 
observations made, suggest that patient possesses several traits 
consistent with antisocial personality disorder, including 
failure to conform to social norms with respect to lawful 
behaviors (as indicated by repeatedly performing acts that are 
grounds for arrest), deceitfulness (as indicated by repeated 
lying or conning others), irritability (as indicated by repeated 
physical fights or assaults, e.g. banned from ___ 
for fighting), consistent irresponsibility (e.g. history of 
arrest and unemployment), reckless disregard for safety of 
others, and impulsivity or failure to plan ahead. At time of 
discharge, patient did not exhibit any symptoms of active mental 
illness for which he required ongoing hospitalization. Any 
ongoing suicidal ideation remains conditional or instrumental in 
order to be deported and is not a function of major mental 
illness. Thus, based on the totality of our assessment at this 
time, the patient is not at an acutely elevated risk of self to 
harm nor danger to others. 
.
Case discussed in consultation with Drs. ___ and ___ 
___.
 
Medications on Admission:
None
.
 
Discharge Medications:
None
.
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
r/o Antisocial Personality Disorder
Cannabis Use Disorder, Moderate

 
Discharge Condition:
Mental status: Linear, logical, organized thoughts.
Level of consciousness: Alert and interactive.
Activity status: Ambulatory without assistance, independent with 
ADLs and iADLs.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

 
Followup Instructions:
___